US07173025B1
1,1′-Carbonyldiimidazole (0.15 g) was added to a stirred solution of 4-(6-chloronaphth-2-ylsulphonyl)benzoic acid (0.29 g) in DMF (10 ml) which had been cooled to 0° C. and the mixture was stirred at 0° C. for 30 minutes. N-(4-Pyridyl)piperazine (0.164 g) was added, the cooling bath was removed and the mixture was stirred at ambient temperature for 16 hours. The solvent was removed by evaporation and the residue was partitioned between ethyl acetate and water. The ethyl acetate extract was washed with water and with brine, dried (MgSO4) and evaporated. The residue was triturated under diethyl ether to give 1-[4-(6-chloronaphth-2-ylsulphonyl)benzoyl]-4-(4-pyridyl)piperazine (0.085 g), m.p. 267-269° C.;

reactant | 1,1′-Carbonyldiimidazole | 0.15 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(6-chloronaphth-2-ylsulphonyl)benzoic acid | 0.29 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C17H11ClO4S
reactant | N-(4-Pyridyl)piperazine | 0.164 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[4-(6-chloronaphth-2-ylsulphonyl)benzoyl]-4-(4-pyridyl)piperazine | 0.085 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=CC=C(C(=O)N2CCN(CC2)C2=CC=NC=C2)C=C1 | C26H22ClN3O3S
